US04086350
The Grignard reagent prepared from 0.62 g. of magnesium turnings and 3.5 g. of 4-chloro-N-methylpiperidine in tetrahydrofuran is treated with a solution of 3-fluoro-9-thioxanthone (3.0 g.) in 50 ml. of tetrahydrofuran. The mixture is refluxed for four hours, cooled, treated with saturated ammonium chloride solution and extracted with ether. The ether extract is washed with water, dried and concentrated to give 3-fluoro-9-(1-methyl-4-piperidyl)-thioxanthene-9-ol, m.p. 120°-130° C.

reactant | magnesium | [Mg] | Mg
reactant | 4-chloro-N-methylpiperidine | ClC1CCN(CC1)C | C6H12ClN
reactant | 3-fluoro-9-thioxanthone | 3.0 g | FC=1C=CC=2C(C3=CC=CC=C3SC2C1)=O | C13H7FOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-fluoro-9-(1-methyl-4-piperidyl)-thioxanthene-9-ol | FC=1C=CC=2C(C3=CC=CC=C3SC2C1)(O)C1CCN(CC1)C | C19H20FNOS
